US07091242B2
4-{[(1-(3,4-Dimethoxyphenyl)-3-{[4-({[(2-methylphenyl)amino]carbonyl}amino)phenyl]amino}-3-oxopropyl)amino]carbonyl}benzoic acid
tert-Butyl-4-{[(1-(3,4-dimethoxyphenyl)-3-{[4-({[(2-methylphenyl)amino]carbonyl}amino) phenyl]amino}-3-oxopropyl)amino]carbonyl}benzoate (30 mg, 0.05 mmol) was dissolved in DCM (10 mL) and TFA (0.18 mL, 2.30 mmol) was added at 0° C. and the reaction mixture was stirred at r.t. for 24 h. The solvent was removed in vacuum and the product was isolated (25 mg, 91%). M.p. 166° C. ESI-MS: 598[M+H]+.

reactant | tert-Butyl-4-{[(1-(3,4-dimethoxyphenyl)-3-{[4-({[(2-methylphenyl)amino]carbonyl}amino) phenyl]amino}-3-oxopropyl)amino]carbonyl}benzoate | 0.05 mmol, 30 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)C(=O)NC(CC(=O)NC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)C1=CC(=C(C=C1)OC)OC)=O | C37H40N4O7
reactant | TFA | 2.30 mmol, 0.18 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-{[(1-(3,4-Dimethoxyphenyl)-3-{[4-({[(2-methylphenyl)amino]carbonyl}amino)phenyl]amino}-3-oxopropyl)amino]carbonyl}benzoic acid | COC=1C=C(C=CC1OC)C(CC(=O)NC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)NC(=O)C1=CC=C(C(=O)O)C=C1 | C33H32N4O7
